US07176242B2
N-((1S,2R)-1-(3,5-Difluorobenzyl)-3-{[1-(3-ethynylphenyl)cyclopropyl]amino}-2-hydroxypropyl)-3-{[isopentyl(methyl)amino]methyl}-5-methylbenzamide dihydrochloride
To methyl 3-{[isopentyl(methyl)amino]methyl}-5-methylbenzoate (250 mg, 0.95 mmol) in tetrahydrofuran/methanol/water (2:1:1, 8 mL) is added lithium hydroxide monohydrate (80 mg, 1.9 mmol), and the reaction is stirred at room temperature 16 h. The solution is concentrated under reduced pressure, redissolved in DMF (5 mL), and diisopropylethylamine (660 μL, 3.8 mmol), HATU (540 mg, 1.4 mmol), and (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethynylphenyl)cyclopropyl]amino}-3-methylbutan-2-ol dihydrochloride (450 mg, 1.05 mmol) are added. The reaction stirred at room temperature 2 h. The reaction mixture is diluted with ethyl acetate, washed with water, saturated sodium bicarbonate, brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 9% methanol/methylene chloride) provides the title compound as the free base. The residue is dissolved in diethyl ether (3 mL) and 1N hydrochloric acid in diethyl ether (2 mL) is added. The mixture is concentrated under reduced pressure to yield the title compound. ESI MS m/z 588.3 [M+H]+.

reactant | methyl 3-{[isopentyl(methyl)amino]methyl}-5-methylbenzoate | 0.95 mmol, 250 mg | C(CC(C)C)N(C)CC=1C=C(C(=O)OC)C=C(C1)C | C16H25NO2
reactant | lithium hydroxide monohydrate | 1.9 mmol, 80 mg | O.[OH-].[Li+]
reactant | diisopropylethylamine | 3.8 mmol, 660 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 1.4 mmol, 540 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethynylphenyl)cyclopropyl]amino}-3-methylbutan-2-ol dihydrochloride | 1.05 mmol, 450 mg | Cl.Cl.N[C@]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C#C)O)(CC1=CC(=CC(=C1)F)F)C
solvent | tetrahydrofuran methanol water | 8 mL | O1CCCC1.CO.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-((1S,2R)-1-(3,5-Difluorobenzyl)-3-{[1-(3-ethynylphenyl)cyclopropyl]amino}-2-hydroxypropyl)-3-{[isopentyl(methyl)amino]methyl}-5-methylbenzamide dihydrochloride | Cl.Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C#C)O)NC(C2=CC(=CC(=C2)C)CN(C)CCC(C)C)=O)C=C(C1)F | InChI=1S/C36H43F2N3O2.2ClH/c1-6-26-8-7-9-30(17-26)36(11-12-36)39-22-34(42)33(20-27-18-31(37)21-32(38)19-27)40-35(43)29-15-25(4)14-28(16-29)23-41(5)13-10-24(2)3;;/h1,7-9,14-19,21,24,33-34,39,42H,10-13,20,22-23H2,2-5H3,(H,40,43);2*1H/t33-,34+;;/m0../s1
